US04695639
In 315 ml of glacial acetic acid was suspended 156.3 g (0.644 mole) of methylsulfonylethyl 4-chloroacetoacetate as obtained in Example 1. The suspension was cooled to 5° C. or below and a solution of 44.4 g (0.644 mole) of sodium nitrite in 140 ml of water was added at 0°-5° C. over a period of about 2 hours. The mixture was stirred for 30 minutes, poured in ice water and extracted with ethyl acetate. The organic layer was washed with water and dried over anhydrous sodium sulfate. The solvent was then distilled off to give 148.7 g of methylsulfonylethyl 4-chloro-2-hydroxyiminoacetoacetate as an oil.

reactant | methylsulfonylethyl 4-chloroacetoacetate | 0.644 mole, 156.3 g | ClCC(CC(=O)OCCS(=O)(=O)C)=O | C7H11ClO5S
reactant | sodium nitrite | 0.644 mole, 44.4 g | N(=O)[O-].[Na+]
solvent | acetic acid | 315 ml | C(C)(=O)O | C2H4O2
solvent | water | 140 ml | O | H2O
product | methylsulfonylethyl 4-chloro-2-hydroxyiminoacetoacetate | 148.7 g | ClCC(C(C(=O)OCCS(=O)(=O)C)=NO)=O | C7H10ClNO6S
